US04238486
A suspension of trans-4,6,6a,8,9,10a-hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine (700 mg; 0.0032 m), Pd/c (10%, 700 mg) and butrylaldehyde (500 mg, 0.006 m) in abs. ethanol (75 ml) is hydrogenated at room temperature for 8 hours. The catalyst is filtered, and the solvent is removed under reduced pressure (20 mm). The resulting oil is chromatographed (silica, chloroform, saturated with aqueous ammonia). The solid is recrystallized from hexane to yield 250 mg of trans-4,6,6a,8,9,10a-hexahydro-7-n-butyl-7H-indolo-[3,4 gh]-[1,4]-benzoxazine; m.p. softens 29°-130°, m.p. 134°-140°.

reactant | trans-4,6,6a,8,9,10a-hexahydro-7H-indolo-[3,4 gh]-[1,4]-benzoxazine | 700 mg | C1=CC=C2NC=C3C2=C1[C@@H]1[C@H](NCCO1)C3 | C13H14N2O
catalyst | Pd | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | trans-4,6,6a,8,9,10a-hexahydro-7-n-butyl-7H-indolo-[3,4 gh]-[1,4]-benzoxazine | 250 mg | C(CCC)N1CCO[C@H]2[C@H]1CC=1C3=C2C=CC=C3NC1 | C17H22N2O
